US09212153B2
Step 1: Preparation of 5-bromo-2′,3′,5′,6′-tetrahydrospiro[indene-1,4′-pyran]-3(2H)-one
To a solution of 6-bromo-1-indanone (0.50 g, 2.35 mmol) in anhydrous THF (40 mL) under N2 atmosphere at −78° C. was added a solution of NHMDS (1 M in THF, 2.5 mL, 2.5 mmol) within 30 min, followed by TMSCl (0.281 g, 0.327 mL 2.59 mmol) after stirred 30 min. To this reaction mixture was added NHMDS (1 M in THF, 6.0 mL, 6.0 mmol) within 30 min at this temperature. The temperature was allowed to warm to −30 to −20° C., after stirred another 30 min, 2,2-dichlorodiethyl ether (336 mg, 0.275 mL, 2.35 mmol) was added. Then the reaction temperature was allowed to warm to room temperature without removing cooling bath, and stirred overnight. The reaction was quenched with saturated aqueous NH4Cl, and extracted with EA two times. The combined organic phases were washed with 1 M HCl, H2O, brine successively, and dried over anhydrous Na2SO4, and filtered, and concentrated to give black oil. It was purified by flash chromatography on silica gel yield 103 mg of the desired product. MS ESI+ve m/z 281 (M+H)30.

reactant | 6-bromo-1-indanone | 2.35 mmol, 0.50 g | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | TMSCl | 2.59 mmol, 0.327 mL, 0.281 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2,2-dichlorodiethyl ether | 2.35 mmol, 0.275 mL, 336 mg | CCOCC(Cl)Cl | C4H8Cl2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-bromo-2′,3′,5′,6′-tetrahydrospiro[indene-1,4′-pyran]-3(2H)-one | BrC=1C=C2C(CC3(CCOCC3)C2=CC1)=O | C13H13BrO2
